US04886810
A mixture of 5-amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (1.5 g), trans-3-amino-4-methylpyrrolidine (0.76 g), DBU (0.77 g), and acetonitrile (30 ml) was refluxed for 7 hours. The precipitated crystals were collected by filtration after cooling, washed with acetonitrile, and dried. Recrystallization from chloroform-ethanol gave cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid (1.05 g), m.p. 234°-236° C.

reactant | 5-amino-1-cyclopropyl-6,7,8-trifluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 1.5 g | NC1=C2C(C(=CN(C2=C(C(=C1F)F)F)C1CC1)C(=O)O)=O | C13H9F3N2O3
reactant | trans-3-amino-4-methylpyrrolidine | 0.76 g | N[C@@H]1CNC[C@H]1C | C5H12N2
reactant | DBU | 0.77 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline 3-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 1.05 g | C1(CC1)N1C=CC(C2=CC(=CC(=C12)F)F)=O.C1(CC1)C1(CNC2=C(C=C(C=C2C1=O)F)F)C(=O)O | InChI=1S/C13H11F2NO3.C12H9F2NO/c14-7-3-8-10(9(15)4-7)16-5-13(11(8)17,12(18)19)6-1-2-6;13-7-5-9-11(16)3-4-15(8-1-2-8)12(9)10(14)6-7/h3-4,6,16H,1-2,5H2,(H,18,19);3-6,8H,1-2H2
